US06265575B1
Part B. 3-[3-Bromo-4-[(1-pyrrolidinyl)methyl]benzyl]6-hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene.
3-[3-Bromo-4-[(1-pyrrolidinyl)methyl]benzyl]-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene (0.32 g; 0.53 mmol)(Part A) was dissolved in 9.0 mL of dichloroethane under an argon atmosphere and cooled in an ice-water bath. To this was added ethanethiol (0.78 mL; 10.56 mmol) and 0.70 g (5.28 mmol) of aluminum chloride, and the mixture was stirred in the cold bath for 1 h. Brine (80 mL) was added to the mixture, and stirring was continued while warming to room temperature for 1 h. Extraction was carried out with dichloromethane (4×75 mL). The combined organics were dried by passage through sodium sulfate. The title compound (0.23 g; 74% yield) was isolated as a white crystalline solid by flash chromatography on silica gel eluting with a gradient of EtOAc(100-85%)/Et3N(0-5%)/MeOH(0-10%).

reactant | 3-[3-Bromo-4-[(1-pyrrolidinyl)methyl]benzyl]-6-methoxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 0.53 mmol, 0.32 g | BrC=1C=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=C(C=C3)OC)C=CC1CN1CCCC1 | C33H37BrN2O2S
reactant | ethanethiol | 10.56 mmol, 0.78 mL | C(C)S | C2H6S
reactant | aluminum chloride | 5.28 mmol, 0.70 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloroethane | 9.0 mL | ClC(C)Cl | C2H4Cl2
solvent | Brine | 80 mL | [Cl-].[Na+].O
product | 3-[3-Bromo-4-[(1-pyrrolidinyl)methyl]benzyl]6-hydroxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophene | 0.23 g, 74% yield | BrC=1C=C(CC=2C3=C(SC2C2=CC=C(C=C2)OCCN2CCCC2)C=C(C=C3)O)C=CC1CN1CCCC1 | C32H35BrN2O2S
